US07615562B2
3-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-1H-indole-6-carbonitrile
The title compound was prepared as described in Example 215, starting from 1-(tert-butyl-dimethyl-silanyl)-1H-indole-6-carbonitrile (prepared by TBDMS protection of 1H-indole-6-carbonitrile) and (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine, followed by in situ cleavage of the TBDMS protecting group with catalytic amounts of TBAF.

reactant | 1-(tert-butyl-dimethyl-silanyl)-1H-indole-6-carbonitrile | C(C)(C)(C)[Si](N1C=CC2=CC=C(C=C12)C#N)(C)C | C15H20N2Si
reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 3-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-1H-indole-6-carbonitrile | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CNC2=CC(=CC=C12)C#N)(C)C)C | C22H26N6
